US04804782
C. D-Alanine N-(2-methylthio-2,4-dimethylpentan-3-yl)amide
To a solution of 3.2 g. (0.017 mole) N-t-butoxy-carbonyl-D-alanine and 2.5 g. (0.017 mole) triethylamine in 100 ml. of tetrahydrofuran at -15° C. was added 1.63 ml. of ethyl chloroformate. After stirring for 15 minutes, 2.49 g. (0.017 mole) 2-methylthio-2,4-dimethyl3-aminopentane was added and the mixture stirred for one hour. The reaction mixture was diluted with ethyl acetate, washed with water, 5% aqueous citric acid (w/v), sodium bicarbonate solution and brine. The organic phase was evaporated to provide 6.0 g. of residue. This was taken up in 100 ml. methanol, 60 ml. of concentrated hydrochloric acid added and the mixture refluxed for one hour. After evaporation of methaol, the residue was taken up in water, washed with ether, the aqueous phase adjusted to pH 12 with sodium hydroxide and extracted with ethyl ether. Evaporation of the extracts gave 3.2 g. (87%) of product as a colorless oil Rf 0.56 (butanol/water/acetic acid-4:1:1 by volume).

reactant | N-t-butoxy-carbonyl-D-alanine | 0.017 mole | C(C)(C)(C)ON[C@H](C=C=O)C(=O)O | C8H13NO4
reactant | triethylamine | 0.017 mole | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | 2-methylthio-2,4-dimethyl3-aminopentane | 0.017 mole | CSC(C)(C(C(C)C)N)C | C8H19NS
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | butanol water acetic acid | C(CCC)O.O.C(C)(=O)O
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | D-Alanine N-(2-methylthio-2,4-dimethylpentan-3-yl)amide | CSC(C)(C(C(C)C)NC([C@H](N)C)=O)C | C11H24N2OS
